US08420816B2
STEP A: (S)-1-tert-butyl 3-methyl 4-((1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate
A mixture of sodium triacetoxyborohydride (279 mg, 1.315 mmol) and (S)-2-amino-1-(pyrrolidin-1-yl)butan-1-one (123 mg, 0.789 mmol) in DCE (2 mL) was stirred at room temperature for 30 min. The reaction mixture was cooled to 0° C. A solution of 1-tert-butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate (200 mg, 0.657 mmol) in DCE (2 mL) was added, followed by acetic acid (1 drop). The reaction was stirred at 0° C. for 30 min and then at room temperature for 3 h. Purification by silica column chromatography (EtOAc/DCM, 0-10%) afforded the title compound as a yellow oil (83mg, 28.4%). [M+H] calc'd for C23H32N4O5, 445; found, 445.5.

reactant | sodium triacetoxyborohydride | 1.315 mmol, 279 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (S)-2-amino-1-(pyrrolidin-1-yl)butan-1-one | 0.789 mmol, 123 mg | N[C@H](C(=O)N1CCCC1)CC | C8H16N2O
reactant | 1-tert-butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 0.657 mmol, 200 mg | C(=O)C1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (S)-1-tert-butyl 3-methyl 4-((1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 83mg, 28.4% | O=C([C@H](CC)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)N2CCCC2 | C23H32N4O5
